US09421237B2
N-pyrazineformyl-L-phenylalanyl-L-phenylalanine Methyl Ester
L-phenylalanine methyl ester hydrochloride (0.8 g, 3.69 mmol) was dissolved with 20 ml of THF, then the hydrochloric acid was neutralized with NMM (0.49 ml, 4.43 mmol), cooled with an ice bath for later use. N-Pyrazineformyl-L-phenylalanine (1.0 g, 3.69 mmol) of Preparation example 3 was added to another reaction flask, dissolved with 20 ml of THF, and cooled with an ice water bath, dicyclohexylcarbodiimide (DCC) (0.76 g, 3.69 mmol), HOBt (0.60 g, 4.42 mmol) were added at 0° C. and reacted for 40 min at 0° C., then the solution of L-phenylalanine methyl ester hydrochloride in THF prepared, cooled and neutralized according to the above was added, the reaction was monitored by TLC and completed after 2 h, insoluble DCU was removed by filtration, to the filtrate was added 80 ml of ethyl acetate, washed with 5% sodium bicarbonate solution, 10% citric acid solution, 5% sodium bicarbonate solution, saturated salt solution (2×20 ml) successively. The ethyl acetate layer was dried over anhydrous sodium sulfate, filtered, and evaporated the solvent under reduced pressure, 1.52 g of white solid was obtained with a yield of 95.6%, m.p.: 111˜113° C. 1H-NMR (CDCl3, 300 MHz): δ 3.04 (—CH2, m, 2H), 3.18 (—CH2, d, 2H), 3.69 (—CH3, s, 3H), 4.82 (—CH, m, 2H), 6.36 (—CONH, d, 1H), 6.92˜7.30 (-Ph, m, 10H), 8.26 (—CONH, d, 1H), 8.54 (-Pyz, d, 1H), 8.76 (-Pyz, d, 1H), 9.33 (-Pyz, s, 1H).

reactant | L-phenylalanine methyl ester hydrochloride | 3.69 mmol, 0.8 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | hydrochloric acid | Cl | ClH
reactant | NMM | 4.43 mmol, 0.49 ml | CN1CCOCC1 | C5H11NO
reactant | N-Pyrazineformyl-L-phenylalanine | 3.69 mmol, 1.0 g | N1=C(C=NC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H13N3O3
reactant | dicyclohexylcarbodiimide | 3.69 mmol, 0.76 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | HOBt | 4.42 mmol, 0.60 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-pyrazineformyl-L-phenylalanyl-L-phenylalanine Methyl Ester | 1.52 g, yield of 95.6% | COC([C@@H](NC([C@@H](NC(=O)C1=NC=CN=C1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C24H24N4O4
